US04031107
PREPARATION of 5-AMINO-6-CHLORO-2(TRIFLUOROMETHYL)-1H-IMIDAZO [4,5-b] PYRIDINE
A 2.5 g. portion of 6-chloro-1-methoxy-2-(trifluoromethyl)-1-H-imidazo [4,5-b] pyridine was dissolved in 25 ml. of methanol, and the solution was saturated with gaseous ammonia. The reaction mixture was stirred at ambient temperature for 2 hours, and additional ammonia was periodically bubbled through the liquid phase. The solvent was then removed under vacuum, and the solid residue was taken up in ethyl ether and the solution was stirred with anhydrous magnesium sulfate and charcoal. The solids were then removed by filtration, and the filtrate was evaporated to dryness to yield about 2 g. of 5-amino-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine, which was recrystallized from chloroform-methanol. The purified product melted at 241° -242° C. , and it was identified conclusively by infrared, nuclear magnetic resonance, mass spectroscopy and elemental microanalysis. The analytical results were as follows.

reactant | 6-chloro-1-methoxy-2-(trifluoromethyl)-1-H-imidazo [4,5-b] pyridine | ClC=1C=C2C(=NC1)N=C(N2OC)C(F)(F)F | C8H5ClF3N3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 5-AMINO-6-CHLORO-2(TRIFLUOROMETHYL)-1H-IMIDAZO [4,5-b] PYRIDINE | NC1=C(C=C2C(=N1)N=C(N2)C(F)(F)F)Cl | C7H4ClF3N4
